US04600709
8.6 g (24.7 mmol) of 5-methyl-6-phenylsulphonyl-1,3-benzodioxole-2-carboxylic acid ethyl ester are suspended in 37 ml of methanol. 37 ml of 1N sodium hydroxide solution are then slowly added at room temperature, the starting material soon dissolving. After one hour the reaction mixture is cooled, concentrated hydrochloric acid is added and the whole is extracted three times with ethyl acetate. The combined organic phases are washed with water and then with a saturated sodium chloride solution, dried over sodium sulphate and concentrated by evaporation. 50 ml of methylene chloride are added to the yellow oil remaining, and the whole is stirred until crystallisation occurs. The filtered crystals are recrystallised from a small amount of 1,2-dichloroethane, yielding 5-methyl-6-phenylsulphonyl-1,3-benzodioxole-2-carboxylic acid in the form of white crystals having a melting point of 169°-171°.

reactant | 5-methyl-6-phenylsulphonyl-1,3-benzodioxole-2-carboxylic acid ethyl ester | 24.7 mmol, 8.6 g | C(C)OC(=O)C1OC2=C(O1)C=C(C(=C2)C)S(=O)(=O)C2=CC=CC=C2 | C17H16O6S
reactant | sodium hydroxide | 1N, 37 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 37 ml | CO | CH4O
product | 5-methyl-6-phenylsulphonyl-1,3-benzodioxole-2-carboxylic acid | CC1=CC2=C(OC(O2)C(=O)O)C=C1S(=O)(=O)C1=CC=CC=C1 | C15H12O6S
